US05521193
N-(exo-3-aza-3-methylbicyclo[3,.3.01octan-7-yl)-3-(1-methylethyl-2,3-dihydro 2-oxo-1H-benzimidazole-1-carboxamide
A 60% NaH/mineral oil dispersion (100 mg, 2.61 mmol) was washed with hexane and suspended in THF (1.0 mL). 1-isopropyl-1,3-dihydro-2H-benzimidazol-2-one (115 mg, 0.653 mmol) was added to the suspension. This mixture was stirred for 15 minutes before adding it to a mixture of 2.38 mL (5.22 mmol) of 20% phosgene (toluene)/2.6 mL THF. The resulting mixture was stirred for 2.5 hours, filtered through celite, and concentrated. The residue was redissolved in THF (2.0 mL) and the amine of Example 11J (166 mg, 0.653 mmol) was added with triethylamine (0.137 mL, 0.98 mmol). This mixture was stirred for 18 hours and then concentrated to dryness. The residue was dissolved in chloroform, washed with saturated aqueous K2CO3, water, and then dried over K2CO3. Filtration and concentration afforded an oil. Purification by chromatography on silica gel eluting with 5% methanol(NH3)/chloroform gave 86 mg (27%) of the title compound.

reactant | 1-isopropyl-1,3-dihydro-2H-benzimidazol-2-one | 0.653 mmol, 115 mg | C(C)(C)N1C(NC2=C1C=CC=C2)=O | C10H12N2O
reactant | phosgene | 5.22 mmol, 2.38 mL | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 0.98 mmol, 0.137 mL | C(C)N(CC)CC | C6H15N
product | 1-methylethyl-2,3-dihydro 2-oxo-1H-benzimidazole-1-carboxamide | 86 mg, 27% | CC(C)N1C(N(C2=C1C=CC=C2)C(=O)N)=O | C11H13N3O2
